US04922019
(4) Preparation of 2,2-Bis-(3,4-diaminophenyl)hexafluoropropane (1)
96.7 g (0.23 mol) of 2,2-bis-(3-amino-4-nitrophenyl) hexafluoropropane are dissolved in 1,000 ml of ethyl acetate and reduced with hydrogen (100 bar) at 25° C. in an autoclave after the addition of 3 g of a palladium/charcoal catalyst (5% Pd). After filtering off the catalyst, the ethyl acetate is separated off on the rotary evaporator. The residue is taken up using 1 1 of water and adjusted to a pH of 1 using 1:1 hydrochloric acid. The mixture is then heated to 70°-80° C., 20 g of activated charcoal are added, the mixture is stirred at 70°-80° C. for 15 minutes and the activated charcoal is filtered off. The colorless filtrate is saturated with nitrogen and is adjusted at 10°-20° C. to a pH of 7 using 1:1 ammonia solution under inert gas. The precipitate is separated off, washed well with water and dried to constant weight under reduced pressure. Yield 74 g (0.20 mol); gas chromatographic purity above 99.9%; white solid; m.p. 218°-220° C.

reactant | 2,2-bis-(3-amino-4-nitrophenyl) hexafluoropropane | 0.23 mol, 96.7 g | NC=1C=C(C=CC1[N+](=O)[O-])C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)[N+](=O)[O-])N | C15H10F6N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 1,000 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/charcoal | 3 g | [Pd] | Pd
product | 2,2-Bis-(3,4-diaminophenyl)hexafluoropropane | NC=1C=C(C=CC1N)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)N)N | C15H14F6N4
